US06387908B1
Ethyl (2S,3S)-3-[[1-(S)-diphenylmethoxymethyl-3-methylbutyl]carbamoyl]oxirane-2-carboxylate (Compound No. 47)
The procedures of Example 1a were repeated employing (2S,3S)-3-ethoxycarbonyloxirane-2-carboxylic acid and 1-(S)-(diphenylmethoxy)methyl-3-methylbutylamine (its preparation is described in the after-mentioned Reference Example 3), to prepare the titled compound

reactant | (2S,3S)-3-ethoxycarbonyloxirane-2-carboxylic acid | C(C)OC(=O)[C@@H]1[C@H](O1)C(=O)O | C6H8O5
reactant | 1-(S)-(diphenylmethoxy)methyl-3-methylbutylamine | C1(=CC=CC=C1)C(OC[C@H](CC(C)C)N)C1=CC=CC=C1 | C19H25NO
product | Ethyl (2S,3S)-3-[[1-(S)-diphenylmethoxymethyl-3-methylbutyl]carbamoyl]oxirane-2-carboxylate | C1(=CC=CC=C1)C(OC[C@H](CC(C)C)NC(=O)[C@@H]1[C@H](O1)C(=O)OCC)C1=CC=CC=C1 | C25H31NO5
